US04464300
A solution of 138.2 g of 3-[(2,5-diaminophenyl)(2-chlorophenyl)methylthio]propionic acid dihydrochloride in 8.6 l of dry methylene chloride is treated at -5° with 94 ml of triethylamine. Subsequently, there are successively added thereto at 0° to 2° 129.1 ml of ethyl chloroformate and 188 ml of triethylamine. The cooling means is then removed and the mixture is stirred for a further 90 minutes. The mixture is evaporated and the residue is chromatographed on 1.44 kg of silica gel. Elution is carried out with chloroform in order to remove impurities and then with chloroform/ethanol (89.5:1.5). There is obtained ethyl 6-(2-chlorophenyl)-1,3,4,6-tetrahydro-2-oxo-2H-5,1-benzothiazocine-8-carbamate of melting point 229°-231°.

reactant | 3-[(2,5-diaminophenyl)(2-chlorophenyl)methylthio]propionic acid dihydrochloride | 138.2 g | Cl.Cl.NC1=C(C=C(C=C1)N)C(SCCC(=O)O)C1=C(C=CC=C1)Cl
reactant | triethylamine | 94 ml | C(C)N(CC)CC | C6H15N
reactant | ethyl chloroformate | 129.1 ml | ClC(=O)OCC | C3H5ClO2
reactant | triethylamine | 188 ml | C(C)N(CC)CC | C6H15N
solvent | methylene chloride | 8.6 l | C(Cl)Cl | CH2Cl2
product | ethyl 6-(2-chlorophenyl)-1,3,4,6-tetrahydro-2-oxo-2H-5,1-benzothiazocine-8-carbamate | ClC1=C(C=CC=C1)C1SCCC(NC2=C1C=C(C=C2)NC(=O)OCC)=O | C19H19ClN2O3S
